US04020169
A solution of 3.29 g. of 1-methyl-4-(2-trifluoromethylthio-9-hydroxy-thioxanthen-9-yl)piperidine in 15 ml. of trifluoroacetic anhydride and 30 ml. of trifluoroacetic acid is stirred and refluxed for 2.5 hours. The solution is evaporated to dryness. The residue is dissolved in benzene and is washed with 10% sodium hydroxide to make the free base form. The benzene is washed with water, dried over magnesium sulfate, filtered and the benzene is removed on a rotary evaporator. The residue is recrystallized from acetonitrile to give 1-methyl-4-[2-(trifluoromethylthio)thioxanthen-9-ylidene]piperidine, m.p. 104°-106° C.

reactant | 1-methyl-4-(2-trifluoromethylthio-9-hydroxy-thioxanthen-9-yl)piperidine | CN1CCC(CC1)C1(C2=CC=CC=C2SC=2C=CC(=CC12)SC(F)(F)F)O | C20H20F3NOS2
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 1-methyl-4-[2-(trifluoromethylthio)thioxanthen-9-ylidene]piperidine | CN1CCC(CC1)=C1C2=CC=CC=C2SC=2C=CC(=CC12)SC(F)(F)F | C20H18F3NS2
